US07521451B2
Diethyl acetylenedicarboxylate (1.0 ml, 6.3 mmol) and dicarbonylcyclopentadienylcobalt (0.1 ml, 0.62 mmol) were added dropwise to a solution of 1,6-heptadiyne (0.72 ml, 6.3 mmol) in xylene (5 ml), and stirred at 80° C. for 5 days. To the reaction solution was added dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried and concentrated under reduced pressure, followed by purifying the residue by silica gel chromatography (chloroform, successively hexane:ethyl acetate=10:1) to give 0.36 g of diethyl 5,6-indandicarboxylate.

reactant | Diethyl acetylenedicarboxylate | 6.3 mmol, 1.0 ml | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | 1,6-heptadiyne | 6.3 mmol, 0.72 ml | C#CCCCC#C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | dicarbonylcyclopentadienylcobalt | 0.62 mmol, 0.1 ml | C(=O)=[Co](C1C=CC=C1)=C=O
product | diethyl 5,6-indandicarboxylate | 0.36 g | C1CCC2=CC(=C(C=C12)C(=O)OCC)C(=O)OCC | C15H18O4
